US05840912
1(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(1,1-diacetoxymethyl)-pyrazol-4-carbonitrile.
5 ml acetic anhydride is cooled to 0°-5° C. and 2 drops boron trifluoride-etherate are added. Then 2.3 g (7.6 mmol) 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-formyl-4-pyrazol-carbonitrile is slowly added dropwise and stirring is continued for another 1.5 hours at room temperature. 9 ml of 10% sodium acetate solution is added, stirring is continued for 20 minutes at room temperature and then the mixture is shaken up with ethyl acetate. The combined ethyl acetate phases are washed with a solution of sodium hydrogen carbonate and sodium chloride, dried and concentrated. Purification is by column chromatography using a hexane/ethyl acetate mixture.

reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-formyl-4-pyrazol-carbonitrile | 7.6 mmol, 2.3 g | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C=O)C#N | C10H6ClF2N5O2
reactant | sodium acetate | 9 ml | C(C)(=O)[O-].[Na+]
catalyst | boron trifluoride-etherate | 2 drops | B(F)(F)F.CCOCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(1,1-diacetoxymethyl)-pyrazol-4-carbonitrile | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C(OC(C)=O)OC(C)=O)C#N | C14H12ClF2N5O5
